US06329391B1
1-Cyclopropyl-1,4-dihydro-7-fluoro-8-chloro-4-oxo-quinoline-3-carboxylic acid
A quantity of 1.93 g of ethyl-1-cyclopropyl-1,4-dihydro-7-fluoro-8-chloro-4-oxo-quinoline-3-carboxylate is dissolved in 30 ml of a mixture of acetic acid, water and sulfuric acid (8/6/1). the mixture is refluxed for 3 hours and cooled to room temperature. The desired compound is collected by filtration and air dried.

reactant | ethyl-1-cyclopropyl-1,4-dihydro-7-fluoro-8-chloro-4-oxo-quinoline-3-carboxylate | 1.93 g | C(C)OC(=O)C1=CN(C2=C(C(=CC=C2C1=O)F)Cl)C1CC1 | C15H13ClFNO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-Cyclopropyl-1,4-dihydro-7-fluoro-8-chloro-4-oxo-quinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC=C(C(=C12)Cl)F)=O)C(=O)O | C13H9ClFNO3
